US06071899
b. Allyl 4-(acetylthio)butanoate
Allyl 4-bromobutyrate (19.7 g) was treated with potassium thioacetate (10.9 g) in dimethyl formamide (100 ml) at 20° C. for 2 hours. Water (500 ml) was added and the mixture extracted with diethyl ether. The ethereal solution was washed with dilute aq. HCl, brine, dried (MgSO4) and evaporated to give the title compound as an oil (18.6 g, 97%)

reactant | Allyl 4-bromobutyrate | 19.7 g | BrCCCC(=O)OCC=C | C7H11BrO2
reactant | potassium thioacetate | 10.9 g | C(C)(=S)[O-].[K+]
reactant | Water | 500 ml | O | H2O
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | Allyl 4-(acetylthio)butanoate | 18.6 g, 97% | C(C)(=O)SCCCC(=O)OCC=C | C9H14O3S
